US07943619B2
f) 5-Methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid
As described for example 112a, 5-methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid ethyl ester (500 mg, 2.1 mmol) was converted, instead of 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester, to the title compound (321 mg, 73%) which was obtained as an off white solid. MS: m/e=204.1 [M−H]−.

reactant | 5-methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid ethyl ester | 2.1 mmol, 500 mg | C(C)OC(=O)C=1C(=NOC1C)C1=NC=NC=C1 | C11H11N3O3
reactant | 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C16H12ClN3O4
product | 5-Methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid | 321 mg, 73% | CC1=C(C(=NO1)C1=NC=NC=C1)C(=O)O | C9H7N3O3
